US08076478B2
(1) Synthesis of N,N-bis(2-cyanoethyl)benzylamine
18.58 g of acrylonitrile was added dropwise to an aqueous solution (80 mL) of 10.71 g of benzylamine at room temperature over 1 hour and 20 minutes. Thereafter, the mixture was heated and stirred at 70° C. for 8 hours. After the reaction mixture was concentrated to dryness, 100 mL of water was added thereto, followed by extraction of the mixture with ethyl acetate (150 mL). After the organic layer obtained was washed with water, it was dried with anhydrous magnesium sulfate. The solvent was distilled off to give 19.93 g of the title compound as a colorless oil.

reactant | acrylonitrile | 18.58 g | C(C=C)#N | C3H3N
reactant | benzylamine | 80 mL, 10.71 g | C(C1=CC=CC=C1)N | C7H9N
product | N,N-bis(2-cyanoethyl)benzylamine | 19.93 g | C(#N)CCN(CCC#N)CC1=CC=CC=C1 | C13H15N3
